US07253165B2
Preparation of toluene-4-sulfonic acid 3-piperidin-1-yl-propyl ester (Scheme VIII, Compound 6)
Add p-toluenesulfonyl-chloride (1.33 g, 6.98 mmol), portionwise, to a mixture of 3-piperidin-1-yl-propan-1-ol (1 g, 6.98 mmol), triethylamine (1.41 g, 13.9 mmol) and dichloromethane (6 mL). Stir the resulting suspension vigorously overnight at room temperature. Add water, separate the organic layer, and extract the aqueous layer with dichloromethane, twice. Combine the organic layers and wash with water, dry with sodium sulfate and evaporate the solvent to give the final, desired compound. The final compound may be purified by chromatography.

reactant | p-toluenesulfonyl-chloride | 6.98 mmol, 1.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-piperidin-1-yl-propan-1-ol | 6.98 mmol, 1 g | N1(CCCCC1)CCCO | C8H17NO
reactant | triethylamine | 13.9 mmol, 1.41 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 3-piperidin-1-yl-propyl ester | N1(CCCCC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C15H23NO3S
